US08729105B2
Preparation of 5-(4-chlorophenyl)-6-(2-hydroxyethoxy)nicotinic acid
To a solution of ethane-1,2-diol (301 mg, 270 μA, 4.84 mmol) in dried DMF (6 mL) was added sodium hydride (232 mg, 4.84 mmol) and the reaction mixture was stirred at room temperature for 15 minutes. The resulting solution was added slowly to a solution of 6-chloro-5-(4-chlorophenyl)-3-pyridinecarboxylic acid (CAN 1012792-56-1; 0.590 g, 2.2 mmol) in dried DMF (6 mL) and stirred at 80° C. for 4 h. More sodium hydride (106 mg, 2.2 mmol) was added and at room temperature and stirring at 80° C. commenced for another 2 h. Water was added and DMF was evaporated. The residue was dissolved in water; acidified with 3M HCl to pH 3. The suspension was filtered; the filter cake was washed with water and dried under high vacuo. The crude material was purified by flash chromatography (ReproFlash Acidosil-S, 50 g, 50% to 100% ethylacetate in heptane) to give 0.27 g (41%) of the title compound as a white solid; MS (ESI): 292.1 (M−H)−.

reactant | ethane-1,2-diol | 4.84 mmol, 301 mg | C(CO)O | C2H6O2
reactant | sodium hydride | 4.84 mmol, 232 mg | [H-].[Na+]
reactant | 6-chloro-5-(4-chlorophenyl)-3-pyridinecarboxylic acid | 2.2 mmol, 0.590 g | ClC1=C(C=C(C=N1)C(=O)O)C1=CC=C(C=C1)Cl | C12H7Cl2NO2
reactant | sodium hydride | 2.2 mmol, 106 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 5-(4-chlorophenyl)-6-(2-hydroxyethoxy)nicotinic acid | 0.27 g, 41% | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCCO | C14H12ClNO4
